US04977273
To a solution of methyl 3-[3'-(2"-nitroimidazolyl)-2',2'-difluoropropoxy]-2,2-difluoropropionate (1.0 g, 3.0 mmol) in dioxane (10 ml), ethanolamine (370 mg, 6.0 mmol) was added and reacted for 5 hours at a room temperature with stirring. The reaction solution was concentrated and partitioned between ethyl acetate and water. The ethyl acetate phase was dried over magnesium sulfate, filtered, concentrated and purified by silica gel column chromatography to obtain 3-[3'-(2"-nitroimidazolyl)-2',2'-difluoropropoxy]-2,2-difluoropropionic acid hydroxyethylamide (550 mg). m.p. 67°-68° C. 1H-NMR (DMSO-d6): δ=3.24-3.76 (5H, m), 4.14 (2H, t, --CF2CH2 --, J=13 Hz), 4.22 (2H, t, --OCH2, J=14 Hz), 4.88 (1H, brt, --OH), 5.24 (2H, t, CH2CF2, J= 15 Hz), 7.42 (1H, d, H5 "), 7.98 (1H, d, H4 "), 8.93 (1H, brt, NH)

reactant | methyl 3-[3'-(2"-nitroimidazolyl)-2',2'-difluoropropoxy]-2,2-difluoropropionate | 3.0 mmol, 1.0 g | [N+](=O)([O-])C=1NC=C(N1)CC(COCC(C(=O)OC)(F)F)(F)F | C10H11F4N3O5
reactant | ethanolamine | 6.0 mmol, 370 mg | C(O)CN | C2H7NO
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[3'-(2"-nitroimidazolyl)-2',2'-difluoropropoxy]-2,2-difluoropropionic acid hydroxyethylamide | 550 mg | OCCNC(C(COCC(CC=1N=C(NC1)[N+](=O)[O-])(F)F)(F)F)=O | C11H14F4N4O5
